US04233302
A. 5-[[Hydroxy(methyl)amino]methyl]-2-furanmethanol
A mixture of 2-furanmethanol (14.7 g), N-methylhydroxylamine hydrochloride (13.8 g) and aqueous formaldehyde (36%, 18 ml) was stirred at 0° hr and at room temperature for 4 hr. The solution was diluted with water (100 ml), excess sodium bicarbonate added and the solution extracted with ethyl acetate (4×100 ml). The combined ethyl acetate extracts were dried (sodium sulphate), filtered and the filtrate evaporated to give an oil which was distilled (6×10-1 mm/200°-210°) to give the title compound (9.1 g).

reactant | 2-furanmethanol | 14.7 g | O1C(=CC=C1)CO | C5H6O2
reactant | N-methylhydroxylamine hydrochloride | 13.8 g | Cl.CNO
reactant | formaldehyde | 18 ml | C=O | CH2O
solvent | water | 100 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-[[Hydroxy(methyl)amino]methyl]-2-furanmethanol | 9.1 g | ON(C)CC1=CC=C(O1)CO | C7H11NO3
